US06329370B1
5-Benzyloxy-6-methoxy-2H-phthalazin-1-one
Glacial acetic acid (285 ml) at 10-20° C. was dropwise added with hydrazine monohydrate (10.16 ml, 209 mmoles) and added with 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide (14.27 g, 41.8 mmoles), prepared as described in example 56. The mixture was left to stand for 2 hours, then evaporated, dissolved in CH2Cl2, washed with water, anhydrified over Na2SO4, brought to dryness, and the crude was triturated in petrolatum/ethyl ether 2:1 (150 ml) and filtered to give 11.3 g of the title compound (yield: 96%).

reactant | hydrazine monohydrate | 209 mmoles, 10.16 ml | O.NN
reactant | 3-benzyloxy-N,N-diethyl-2-formyl-4-methoxy-benzamide | 41.8 mmoles, 14.27 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)N(CC)CC)C=CC1OC)C=O | C20H23NO4
solvent | acetic acid | 285 ml | C(C)(=O)O | C2H4O2
product | 5-Benzyloxy-6-methoxy-2H-phthalazin-1-one | 11.3 g, yield: 96% | C(C1=CC=CC=C1)OC1=C2C=NNC(C2=CC=C1OC)=O | C16H14N2O3
